US08431695B2
Step 3: Preparation of Ethyl 1-amino-4-[3-(benzyloxy)phenyl]-5-cyano-1H-pyrrole-2-carboxylate
To a stirred solution of ethyl 1-amino-4-bromo-5-cyano-1H-pyrrole-2-carboxylate (1.43 g, 5.55 mmol), 4-benzyloxybenzeneboronic acid (3.80 g, 16.7 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) complex with dichloromethane (453 mg, 0.56 mmol) in degassed DME (41 mL) was added aqueous Na2CO3 solution (2 M, 8.3 mL). The reaction was heated (80° C.) for 17 h and then cooled to rt. The reaction was filtered through a pad of Celite® and the filter cake was rinsed well with ethyl acetate. The filtrate was partitioned between ethyl acetate (100 mL) and water (100 mL) and the layers were separated. The organic phase was further washed with water (75 mL), brine, was dried (Na2SO4), and concentrated. The crude material was purified by flash chromatography on silica gel using a gradient of 10 to 20% ethyl acetate in hexanes to afford 1.0 g (50%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.47-7.43 (m, 2 H), 7.41-7.25 (m, 6 H), 7.18 (s, 1 H), 7.02-6.97 (m, 1 H), 6.55 (s, 2 H), 5.15 (s, 2 H), 4.31 (q, 2 H), 1.33 (t, 3 H); ES-MS m/z 362.02 [M+H]+, HPLC RT (min) 3.38.

reactant | ethyl 1-amino-4-bromo-5-cyano-1H-pyrrole-2-carboxylate | 5.55 mmol, 1.43 g | NN1C(=CC(=C1C#N)Br)C(=O)OCC | C8H8BrN3O2
reactant | 4-benzyloxybenzeneboronic acid | 16.7 mmol, 3.80 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | dichloromethane | 0.56 mmol, 453 mg | ClCCl | CH2Cl2
reactant | Na2CO3 | 2 M, 8.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 41 mL | COCCOC | C4H10O2
product | Ethyl 1-amino-4-[3-(benzyloxy)phenyl]-5-cyano-1H-pyrrole-2-carboxylate | 1.0 g, 50% | NN1C(=CC(=C1C#N)C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OCC | C21H19N3O3
